US06531502B1
A mixture of 5-dimethylaminosulfonyl-2-oxindole (96 mg), 3-methylindole-2-carbaldehyde (56 mg) (prepared according to Synthetic Communications, 1986, 16, 1799) and piperidine (30 mg) in ethanol (1 mL) was held in a sealed tube at 90° C. overnight. The mixture was cooled to room temperature. The solid was collected by vacuum filtration, washed with cold ethanol and dried in a vacuum oven to give 76 mg (57% yield) of 3-(3-methyl-1H-indol-2-ylmethylene)-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid dimethylamide (mixture of isomers).

reactant | 5-dimethylaminosulfonyl-2-oxindole | 96 mg | CN(S(=O)(=O)C=1C=C2CC(NC2=CC1)=O)C | C10H12N2O3S
reactant | 3-methylindole-2-carbaldehyde | 56 mg | CC1=C(NC2=CC=CC=C12)C=O | C10H9NO
reactant | piperidine | 30 mg | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-(3-methyl-1H-indol-2-ylmethylene)-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid dimethylamide | 76 mg, 57% yield | CN(S(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=CC=1NC2=CC=CC=C2C1C)C | C20H19N3O3S
